US05508273
bis(3-Trifluoromethylphenyl)methylphosphonic Acid
O,O-Diethyl bis(3-trifluoromethylphenyl)methylphosphonate (6.12 g, 13.9 mmol) was dissolved in ethanol (220 mL) and 118 mL of concentrated hydrochloric acid. The resulting solution was heated at 95° C. for 66 hours. The mixture was concentrated in volume and a precipitate formed. The solid was filtered, washed with H2O (3×20 mL), and dried to give 3.60 g (67.4%)of analytically pure product as a white solid, mp 191°-193° C. 300 MHz 1H NMR (DMSO-d6): δ,4.78 (d,1H, J=23.4 Hz, PCH). MS: 385 (M+1).

reactant | O,O-Diethyl bis(3-trifluoromethylphenyl)methylphosphonate | 13.9 mmol, 6.12 g | FC(C=1C=C(C=CC1)C(C1=CC(=CC=C1)C(F)(F)F)P(OCC)(OCC)=O)(F)F | C19H19F6O3P
solvent | ethanol | 220 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 118 mL | Cl | ClH
product | bis(3-Trifluoromethylphenyl)methylphosphonic Acid | FC(C=1C=C(C=CC1)C(C1=CC(=CC=C1)C(F)(F)F)P(O)(O)=O)(F)F | C15H11F6O3P
